* High-speed front-end demo — tuned for wider band (5 V)
.param FHB=1.2 AmpHB=1m FNOISE=50 AmpNOISE=1m
* Signal: heartbeat + noise (placeholder for transient events)
Bsig VIN 0 V=AmpHB*sin(2*pi*FHB,time) + AmpNOISE*sin(2*pi*FNOISE,time)

VCC VCC 0 DC 5
Cdec VCC 0 10u

Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

C1 VIN NIN 470n
Rbias NIN VREF 100k
E1 OUT 0 NIN NNEG 1e5
Rfb OUT NNEG 49k
Rin NNEG VREF 1k

* Faster anti-aliasing for wider bandwidth
Rlp OUT VOUT 5k
Clp VOUT VREF 10n

Cout VOUT ADC_IN 1u
Radc ADC_IN 0 50k

.ac dec 100 0.1 100k
.tran 0 2

.control
run
* Day 007 note: Designed for improved settling and bandwidth; validate on hardware with intended ADC.
.endc
.end